US20010056092A1
3-(3-Bromophenylamino)-4-ethoxy-3-cyclobuten-1,2-dione:
1.7 g of 3,4-diethoxy-3-cyclobuten-1,2-dione in 25 mL of absolute ethyl alcohol was added 1.7g of 3-bromoaniline, the reaction mixture was stirred at room temperature for 20 hours, then 0.4 g of 3-bromoaniline was added and the reaction mixture was stirred for 48 hours.

reactant | 3,4-diethoxy-3-cyclobuten-1,2-dione | 1.7 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | 3-bromoaniline | 1.7g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 3-bromoaniline | 0.4 g | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | ethyl alcohol | 25 mL | C(C)O | C2H6O
product | 3-(3-Bromophenylamino)-4-ethoxy-3-cyclobuten-1,2-dione | BrC=1C=C(C=CC1)NC=1C(C(C1OCC)=O)=O | C12H10BrNO3
